US07105679B2
[3-(2,4-Bis-methoxymethoxy-phenyl)-7-methoxymethoxy-2-oxo-2H-chromen-4-yl]-acetaldehyde
To a clean dry 200 ml flask purged with nitrogen was added diisopropylamine (2.7 ml, 19.5 mmol, 3 eq), dry THF (50 mL) and 3-(2,4-Bis-methoxymethoxy-phenyl)-7-methoxymethoxy-4-methyl-chromen-2-one (8.1 mL, 16.25 mmol, 2.5 eq.) at −78° C. After 30 minutes, to this solution was added drop-wise, a solution of 3-(2,4-bis-methoxymethoxy-phenyl)-7-methoxymethoxy-4-methyl-chromen-2-one (2.7 g, 6.5 mmol, 1 eq.) in dry THF (13 mL). The solution was warmed to −10° C. and stirred at this temperature for 30 minutes. Phenyl formate (3.6 ml, 33 mmol, 5 eq) was then added slowly into the reaction mixture. The reaction mixture was then stirred for 30 mins, quenched with saturated aqueous NH4Cl, extracted with ethyl acetate and then concentrated to yield th title product as a crude solid which was purified by flash chromatography eluting with 30% ethyl acetate in hexane to yield the title product as a solid.

reactant | diisopropylamine | 19.5 mmol, 2.7 ml, 3 eq | C(C)(C)NC(C)C | C6H15N
reactant | 3-(2,4-Bis-methoxymethoxy-phenyl)-7-methoxymethoxy-4-methyl-chromen-2-one | 16.25 mmol, 8.1 mL, 2.5 eq. | COCOC1=C(C=CC(=C1)OCOC)C=1C(OC2=CC(=CC=C2C1C)OCOC)=O | C22H24O8
reactant | 3-(2,4-bis-methoxymethoxy-phenyl)-7-methoxymethoxy-4-methyl-chromen-2-one | 6.5 mmol, 2.7 g, 1 eq. | COCOC1=C(C=CC(=C1)OCOC)C=1C(OC2=CC(=CC=C2C1C)OCOC)=O | C22H24O8
reactant | Phenyl formate | 33 mmol, 3.6 ml, 5 eq | C(=O)OC1=CC=CC=C1 | C7H6O2
solvent | THF | 13 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | [3-(2,4-Bis-methoxymethoxy-phenyl)-7-methoxymethoxy-2-oxo-2H-chromen-4-yl]-acetaldehyde | COCOC1=C(C=CC(=C1)OCOC)C=1C(OC2=CC(=CC=C2C1CC=O)OCOC)=O | C23H24O9
